US08044041B2
4-Chloro-6-(2-pyrazol-1-yl-benzylamino)-2H-phthalazin-1-one
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.58 mmol), 2-pyrazol-1-yl-benzylamine (111 mg, 0.64 mmol), Pd2(dba)3 (53 mg, 0.058 mmol), rac-BINAP (108 mg, 0.17 mmol) and NaOt-Bu (140 mg, 1.45 mmol) in DMA (6 mL) was heated at 80° C. for 1 h. The mixture was allowed to cool, diluted with EtOAc (25 mL) and washed with water (25 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. Chromatography on silica (EtOAc/hexanes) yielded the title compound. 4-Chloro-6-(2-pyrazol-1-yl-benzylamino)-2H-phthalazin-1-one: 46 mg (22.5%): m/z (M+H)=352. 1H-NMR (DMSO-d6) δ: 12.34 (s, 1H), 8.13 (d, 1H), 7.90 (d, 1H), 7.78 (d, 1H), 7.59 (m, 1H), 7.50 (m, 1H), 7.43 (m, 3H), 7.05 (d, 1H), 6.68 (s, 1H), 6.54 (t, 1H), 4.38 (d, 2H).

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.58 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 2-pyrazol-1-yl-benzylamine | 0.64 mmol, 111 mg | N1(N=CC=C1)C1=C(CN)C=CC=C1 | C10H11N3
reactant | rac-BINAP | 0.17 mmol, 108 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 1.45 mmol, 140 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.058 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Chloro-6-(2-pyrazol-1-yl-benzylamino)-2H-phthalazin-1-one | ClC1=NNC(C2=CC=C(C=C12)NCC1=C(C=CC=C1)N1N=CC=C1)=O | C18H14ClN5O
